US05155113
Preparation of 5-chloro-4-hydroxy-1-methoxymethyl-2-pyridone
The general procedure of Example 61 was followed using 1.75 g of 2,4-bis(trimethylsilyloxy)-5-chloropyridine, 0.66 g of chloromethyl methyl ether and 20 ml of acetonitrile, thereby producing 0.63 g of the title compound in a yield of 49%.

reactant | 2,4-bis(trimethylsilyloxy)-5-chloropyridine | 1.75 g | C[Si](OC1=NC=C(C(=C1)O[Si](C)(C)C)Cl)(C)C | C11H20ClNO2Si2
reactant | chloromethyl methyl ether | 0.66 g | COCCl | C2H5ClO
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5-chloro-4-hydroxy-1-methoxymethyl-2-pyridone | 0.63 g, yield of 49% | ClC=1C(=CC(N(C1)COC)=O)O | C7H8ClNO3
